US07018988B2
(2S,4EZ)-1-benzoyl-4-(chloromethylene)-N-(2-furylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid, benzoyl chloride, and 2-furylmethylamine the title compound was obtained in 73% purity by LC/MS. MS(ESI+): m/z=345.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CCl)C(=O)O | C11H16ClNO4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-furylmethylamine | O1C(=CC=C1)CN | C5H7NO
product | (2S,4EZ)-1-benzoyl-4-(chloromethylene)-N-(2-furylmethyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)(=O)N1[C@@H](CC(C1)=CCl)C(=O)NCC=1OC=CC1 | C18H17ClN2O3
